US08211919B2
To a solution of tert-butyl[(1S)-1-benzyl-2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl]carbamate (800 mg) in ethanol (30 mL) was added 4N hydrogen chloride in ethyl acetate (5 mL) and the mixture was stirred at 60° C. for 1 hour. The solvents were removed by evaporation in vacuo and the residue was recrystallized from 2-propanol to afford (2S)-2-amino-3-phenyl-N-[4-(4-pyridinyl)phenyl]propanamide dihydrochloride (625 mg) as a white powder.

reactant | tert-butyl[(1S)-1-benzyl-2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl]carbamate | 800 mg | C(C)(C)(C)OC(N[C@H](C(NC1=CC=C(C=C1)C1=CC=NC=C1)=O)CC1=CC=CC=C1)=O | C25H27N3O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-2-amino-3-phenyl-N-[4-(4-pyridinyl)phenyl]propanamide dihydrochloride | 625 mg | Cl.Cl.N[C@H](C(=O)NC1=CC=C(C=C1)C1=CC=NC=C1)CC1=CC=CC=C1 | InChI=1S/C20H19N3O.2ClH/c21-19(14-15-4-2-1-3-5-15)20(24)23-18-8-6-16(7-9-18)17-10-12-22-13-11-17;;/h1-13,19H,14,21H2,(H,23,24);2*1H/t19-;;/m0../s1
